### PR TITLE
Generalize lemmas from monoid to semigroups

### PR DESCRIPTION
**Pull request by proux01**
##### Motivation for this change

Many lemmas for bigops on monoids (particularly abelian ones) were already valid on (abelian) semigroups. This generalization could be improved by adding semigroups to the monoid hierarchy, when porting to HB.

Some lemmas don't require a monoid with a neutral element but only an idempotent element. This is particularly useful for min/max that are idempotent but generally don't have a neutral element.

This is used for min/max in Analysis: https://github.com/math-comp/analysis/pull/712

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md` (do not edit former entries)
- [ ] ~added corresponding documentation in the headers~

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and make sure there is a milestone.

### CODE REVIEW

File: mathcomp/ssreflect/bigop.v [hunk 1]
```diff
@@ -1153,6 +1153,448 @@ Proof. by rewrite big_const card_ord. Qed.
...
+Variable op : R -> R -> R.
+
+Hypothesis opA : associative op.
+
+Section Id.
+
+Variable x : R.
+Hypothesis opxx : op x x = x.
+
+Lemma big_const_idem I (r : seq I) P : \big[op/x]_(i <- r | P i) x = x.
```
Comment (affeldt-aist) [inline mathcomp/ssreflect/bigop.v:1197]:
```
Proof. by elim/big_ind : _ => // _ _ -> ->. Qed.
```

File: mathcomp/ssreflect/bigop.v [hunk 2]
```diff
@@ -1153,6 +1153,448 @@ Proof. by rewrite big_const card_ord. Qed.
...
+by elim: r => [|i r IHr]; rewrite ?big_nil// big_cons IHr; case: (P i).
+Qed.
+
+Lemma big1_idem I r (P : pred I) F :
+  (forall i, P i -> F i = x) -> \big[op/x]_(i <- r | P i) F i = x.
+Proof.
+move=> Fix; under eq_bigr => ? ? do rewrite Fix//; exact: big_const_idem.
+Qed.
+
+Lemma big_id_idem I (r : seq I) P F :
```
Comment (affeldt-aist) [inline mathcomp/ssreflect/bigop.v:1208]:
```
Proof. by elim/big_rec : _ => // ? ? ?; rewrite -opA => ->. Qed.
```

**Comment by affeldt-aist** [comment]
I just backported a few shorter proofs from mathcomp-analysis.

**Comment by proux01** [comment]
@affeldt-aist this seems reasonably ready for nearly three months now, would you assign and merge?

**Comment by affeldt-aist** [comment]
> @affeldt-aist this seems reasonably ready for nearly three months now, would you assign and merge?

I would have said okay a few days ago but the generalization requested in
https://github.com/math-comp/analysis/pull/779
seems (at first sight) to trigger generalizations here also. I will try to investigate
this by the end of the week.

**Comment by proux01** [comment]
@affeldt-aist I had a look at https://github.com/math-comp/analysis/pull/779 , this made me add `big_undup_AC` here.
There are certainly other things from the mathcomp_extra.v file from analysis to backport to matchomp, but I think this backporting belongs to a further PR.

**Review by affeldt-aist — APPROVED** [review]
I quickly checked the diff and found no problems.

**Comment by proux01** [comment]
@affeldt-aist is this mergeable?
